US07361659B2
7-Difluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid [2-chloro-5-(2-hydroxy-1-hydroxymethyl-ethylsulfamoyl)-thiophen-3-yl]-amide
The title compound was prepared from 7-difluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (example C.1) and 4-amino-5-chloro-thiophene-2-sulfonic acid (2-hydroxy-1-hydroxymethyl-ethyl)-amide (example B.4) according to general procedure II. Light yellow solid. MS (ISP) 624.2 [(M−H)−]; mp 241° C.

reactant | 7-difluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | FC(C1=CC(=NC=2N1N=CC2C(=O)O)C2=CC=C(C=C2)C(F)(F)F)F | C15H8F5N3O2
reactant | 4-amino-5-chloro-thiophene-2-sulfonic acid (2-hydroxy-1-hydroxymethyl-ethyl)-amide | OCC(CO)NS(=O)(=O)C=1SC(=C(C1)N)Cl | C7H11ClN2O4S2
product | 7-Difluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid [2-chloro-5-(2-hydroxy-1-hydroxymethyl-ethylsulfamoyl)-thiophen-3-yl]-amide | ClC=1SC(=CC1NC(=O)C=1C=NN2C1N=C(C=C2C(F)F)C2=CC=C(C=C2)C(F)(F)F)S(NC(CO)CO)(=O)=O | C22H17ClF5N5O5S2
